US07125903B1
Preparation of (2R)-1-[4-(4-chlorophenyl)piperazin-1-yl]-3-(3-thieno[2,3-d]isoxazol-3-yl-phenoxy)propan-2-ol hydrochloride
Treat a stirred solution of the example 1 phenol (2.17 g, 0.010 mol) and N-methyl pyrrolidinone (30 mL) at 10° C. with solid potassium t-butoxide (1.12 g, 0.010 mol). Cool the reaction after 30 min. to 0–5° C. and treat with (2R)-(−)-glycidyl 3-nitrobenzenesulfonate (2.59 g, 0.010 mol, 99% ee, Aldrich Chemical Company). Monitor reaction progress by HPLC (Waters μ-Bondapak C-18 column, 0.1 N ammonium formate/acetonitrile (40:60); flow rate 1 mL/min., UV detection at 240 nm). After 2 hours, add 0.1 equivalent of both potassium t-butoxide and the glycidyl nitrobenzenesulfonate and stir for one hour. HPLC indicated >98% conversion to the intermediate epoxide. Add 1-(4-chlorophenyl)-piperazine (5.93 g, 0.030 mol) and water (3 mL) and heat to 70° C. HPLC analysis indicates >98% conversion of the epoxide to product after 5 hours. Cool to 23° C., pour into water (250 mL) and extract with ethyl acetate (150 mL, then 2×100 mL). Wash the combined extracts with 5% NaCl solution, concentrate in vacuo and purify the crude material by chromatography (silica gel, elute with ethyl acetate). Recrystallize the purified material from ethyl acetate:heptane (50:50) to give the free base of the title compound. Treat a slurry of the free base in methanol (25 mL) at 23° C. with 37% HCl (0.67 mL, 1.05 equiv.) to give the title compound (3.62 g, 76% yield) after drying (90° C., 6 hours), m.p. 163–165° C., chiral HPLC purity >98% ee; MS (Cl, methane) m/e 470 (MH+)

reactant | phenol | 0.010 mol, 2.17 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium t-butoxide | 0.010 mol, 1.12 g | CC(C)([O-])C.[K+]
reactant | (2R)-(−)-glycidyl 3-nitrobenzenesulfonate | 0.010 mol, 2.59 g | C1[C@@H](O1)COS(=O)(=O)C2=CC=CC(=C2)[N+](=O)[O-] | C9H9NO6S
reactant | ammonium formate acetonitrile | 0.1 N | C(=O)[O-].[NH4+].C(C)#N
reactant | potassium t-butoxide | 0.1 equivalent | CC(C)([O-])C.[K+]
reactant | glycidyl nitrobenzenesulfonate | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)OCC1CO1 | C9H9NO6S
reactant | 1-(4-chlorophenyl)-piperazine | 0.030 mol, 5.93 g | ClC1=CC=C(C=C1)N1CCNCC1 | C10H13ClN2
solvent | water | 250 mL | O | H2O
solvent | water | 3 mL | O | H2O
solvent | N-methyl pyrrolidinone | 30 mL | CN1CCCC1=O | C5H9NO
product | (2R)-1-[4-(4-chlorophenyl)piperazin-1-yl]-3-(3-thieno[2,3-d]isoxazol-3-yl-phenoxy)propan-2-ol hydrochloride | Cl.ClC1=CC=C(C=C1)N1CCN(CC1)C[C@H](COC1=CC(=CC=C1)C1=NOC2=C1SC=C2)O | InChI=1S/C24H24ClN3O3S.ClH/c25-18-4-6-19(7-5-18)28-11-9-27(10-12-28)15-20(29)16-30-21-3-1-2-17(14-21)23-24-22(31-26-23)8-13-32-24;/h1-8,13-14,20,29H,9-12,15-16H2;1H/t20-;/m1./s1
